US04269854
Methyl 6,7,8,9-tetrahydro-5-methoxy-4,9-dioxo-10-propyl-4H-naphtho-[2,3-b]pyran-2-carboxylate II
Methyl 6,7,8,9-tetrahydro-5-methoxy-4-oxo-10-propyl-4H-naphtho-[2,3-b]pyran-2-carboxylate (81.4 g; 0.25 mole) was dissolved in acetone (1 l) and stirred rapidly while adding a solution of chromium trioxide (220 g) in water (830 ml) and concentrated sulphuric acid (190 ml), adding at such a rate that the acetone refluxed gently. The mixture was then stirred at room temperature overnight, poured into water (1 l) and extracted into chloroform (3×). The organic fractions were combined, dried (sodium sulphate) and evaporated to give a yellow oil which was submitted to high pressure liquid chromatography (HPLC) to separate the components.

reactant | Methyl 6,7,8,9-tetrahydro-5-methoxy-4-oxo-10-propyl-4H-naphtho-[2,3-b]pyran-2-carboxylate | 0.25 mole, 81.4 g | COC1=C2CCCCC2=C(C=2OC(=CC(C21)=O)C(=O)OC)CCC | C19H22O5
reactant | acetone | 1 l | CC(=O)C | C3H6O
solvent | water | 830 ml | O | H2O
solvent | sulphuric acid | 190 ml | S(O)(O)(=O)=O | H2O4S
catalyst | chromium trioxide | 220 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 1 l | O | H2O
product | Methyl 6,7,8,9-tetrahydro-5-methoxy-4,9-dioxo-10-propyl-4H-naphtho-[2,3-b]pyran-2-carboxylate | COC1=C2CCCC(C2=C(C=2OC(=CC(C21)=O)C(=O)OC)CCC)=O | C19H20O6
